* Schematics Netlist *



V_V1         +Vcc 0 15V
V_V2         0 -Vcc 15V
X_U1A         0 $N_0001 +Vcc -Vcc Vout LM324
C_C1         $N_0002 $N_0001  100u  
R_R2         $N_0001 Vout  100k  
V_Vin         $N_0002 0  
+PULSE 0 1 0 5 10 15 40
