* Schematics Netlist *



V_V1         0 -Vcc 15V
V_V2         +Vcc 0 15V
R_R1         $N_0002 $N_0001  10k  
C_Cf         $N_0001 **OUT**  0.0022u  
V_Vin         $N_0002 0 DC 0V AC 1V 
X_U6         0 $N_0001 +Vcc -Vcc **OUT** LF411
