* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
E_U1         $N_0003 0 VALUE {LIMIT(V(0,$N_0001)*1E6,-15V,+15V)}
R_R3         $N_0001 $N_0003  1k  
V_V2         $N_0002 0  
+SIN 0 5v 1Mega 0 0 0
R_R2         0 $N_0003  10k  
